US05334716
To a solution of ethyl 4- [1- [3- [(1-carboxyethyl)amino]benzoyl]indolizin-3-yl]butyrate (60 mg), heptylamine (16 mg) and 1-hydroxybenzotriazole (20 mg) in dichloromethane (3 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (30 mg). The mixture was stirred for 3 hours at room temperature, evaporated and dissolved in ethyl acetate (10 ml). The solution was washed with diluted hydrochloric acid and water and dried over magnesium sulfate. The solvent was removed under reduced pressure to give ethyl 4-[1-[3-[[1(heptylcarbamoyl)ethyl]amino]benzoyl]indolizin-3-yl]butyrate (70 mg) as a yellow oil.

reactant | ethyl 4- [1- [3- [(1-carboxyethyl)amino]benzoyl]indolizin-3-yl]butyrate | 60 mg | C(=O)(O)C(C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C24H26N2O5
reactant | heptylamine | 16 mg | C(CCCCCC)N | C7H17N
reactant | 1-hydroxybenzotriazole | 20 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 30 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | ethyl 4-[1-[3-[[1(heptylcarbamoyl)ethyl]amino]benzoyl]indolizin-3-yl]butyrate | 70 mg | C(CCCCCC)NC(=O)C(C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C31H41N3O4
